US06683095B2
Synthesis of (E)-3-[4-(benzyloxy)-3-nitrophenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-hydroxy-5-methyl-3-nitroacetophenone (200 mg, 1.02 mmol), 4-benzyloxy-3-nitrobenzaldehyde (300 mg, 1.16 mmol) and 3 equivalents of sodium hydroxide (120 mg) were introduced into 80% aqueous ethanol solution and the resulting mixture was stirred for 3 hours at room temperature. The reaction solution was acidified by 2N hydrochloric acid solution and diluted with water. The resulting solid was filtered, washed with large amount of water and methanol, and then dried to give 430 mg (Yield 97%) of the title compound as a yellow solid.

reactant | 2-hydroxy-5-methyl-3-nitroacetophenone | 1.02 mmol, 200 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 4-benzyloxy-3-nitrobenzaldehyde | 1.16 mmol, 300 mg | C(C1=CC=CC=C1)OC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C14H11NO4
reactant | sodium hydroxide | 120 mg, 3 equivalents | [OH-].[Na+]
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | (E)-3-[4-(benzyloxy)-3-nitrophenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 430 mg, Yield 97% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O)[N+](=O)[O-] | C23H18N2O7
